US04199528
A. 2-[3-(Dimethylamino)propoxy]-5-methoxybenzaldehyde
2-Hydroxy-5-methoxybenzaldehyde (31.2 g) in 170 ml. of dimethylformamide is treated first with 10.1 g of 50% sodium hydride, then with 160 ml. of a 2 N toluene solution of 3-dimethylaminopropyl chloride, following the procedure described in Example 1A, yielding 34.1 g of the title compound, boiling point 149°-155° C. at 0.2-0.3 mm of Hg.

reactant | 2-Hydroxy-5-methoxybenzaldehyde | 31.2 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | 10.1 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
solvent | toluene | 2 N | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(Dimethylamino)propoxy]-5-methoxybenzaldehyde | 34.1 g | CN(CCCOC1=C(C=O)C=C(C=C1)OC)C | C13H19NO3
